US07589109B2
Step 1. tert-Butyl 1-(iodomethyl)cyclopropanecarboxylate
To a stirred solution of diisopropylamine (7.7 mL, 0.055 mol) in tetrahydrofuran (80 mL), n-butyl lithium (1.59 M in cyclohexane, 34 mL, 0.055 mol) was added slowly at −70° C. and the mixture was stirred for 20 min at 0° C. The mixture was cooled to −78° C. and tert-butyl cyclopropanecarboxylate (6.5 g, 0.046 mol, Kohlrausch et al., Z. Elektrochem. Angew. Phys. Chem., 1937, 70, 392) in tetrahydrofuran (10 mL) was added dropwise, and the mixture was stirred for 3 h. Then, diiodomethane (4.0 mL, 0.050 mol) in tetrahydrofuran (10 mL) was added dropwise, and the mixture was allowed to warm up to room temperature overnight. Saturated aqueous NH4Cl (80 mL) was added to the solution and it was extracted with diethyl ether (50 mL), washed with brine (20 mL), dried over MgSO4, filtered and concentrated to give brown oil. The oil was chromatographed on a column of silica gel eluting with hexane/diethyl ether (40:1) to give 1.9 g of the title compound as a crude product. The crude product was used without further purification. Rf: 0.3 (hexane/diethyl ether (40:1))

reactant | diisopropylamine | 0.055 mol, 7.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.055 mol, 1.59 M, 34 mL | C(CCC)[Li]
reactant | tert-butyl cyclopropanecarboxylate | 0.046 mol, 6.5 g | C1(CC1)C(=O)OC(C)(C)C | C8H14O2
reactant | diiodomethane | 0.050 mol, 4.0 mL | ICI | CH2I2
reactant | NH4Cl | 80 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl 1-(iodomethyl)cyclopropanecarboxylate | 1.9 g | ICC1(CC1)C(=O)OC(C)(C)C | C9H15IO2
